US07812022B2
Step H: N-{5-[3-(2-{[2-(dimethylamino)-2,3-dihydro-1H-inden-5-yl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,6-difluorobenzamide (title compound)
To a solution of {4-[2-(3-amino-4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}[2-(dimethylamino)-2,3-dihydro-1H-inden-5-yl]amine (80 mg, 0.17 mmol) in THF (3 mL) was added TEA (25 μL, 0.25 mmol) and 2,6-difluorobenzoyl chloride (22 μL, 0.18 mmol). The reaction was stirred at rt for 2 h, and the reaction was diluted with 30 mL DCM and adsorbed onto silica. The crude product was purified by flash chromatography and reversed-phase HPLC to generate, after lyophilization, the title compound as a TFA salt (38 mg, 37% yield). 1H NMR (400 MHz, d6-DMSO): δ 10.84 (s, 1H), 9.59 (s, 1H), 8.88 (d, J=6.7 Hz, 1H), 8.44 (d, J=8.4 Hz, 1H), 8.30 (d, J=5.3 Hz, 1H), 8.24 (d, J=7.0 Hz, 1H), 7.75 (s, 1H), 7.58-7.62 (m, 1H), 7.41-7.52 (m, 4H), 7.24 (t, J=8.0 Hz, 2H), 7.13-7.16 (m, 2H), 6.61 (d, J=5.3 Hz, 1H), 4.04-4.12 (m, 1H), 3.22-3.28 (m, 2H), 3.06-3.12 (m, 2H), 2.82 (s, 6H). MS (ESI) m/z=620 [M+H]+.

reactant | {4-[2-(3-amino-4-fluorophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}[2-(dimethylamino)-2,3-dihydro-1H-inden-5-yl]amine | 0.17 mmol, 80 mg | NC=1C=C(C=CC1F)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC=1C=C2CC(CC2=CC1)N(C)C | C28H26FN7
reactant | 2,6-difluorobenzoyl chloride | 0.18 mmol, 22 μL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-{5-[3-(2-{[2-(dimethylamino)-2,3-dihydro-1H-inden-5-yl]amino}-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]-2-fluorophenyl}-2,6-difluorobenzamide | 38 mg, 37% yield | CN(C1CC2=CC=C(C=C2C1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=CC(=C(C2)NC(C2=C(C=CC=C2F)F)=O)F)C | C35H28F3N7O
